US06939870B2
2-{2-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethyl}-2H-[1,2,4]triazolo[4,3-a]pyridin-3-one
Toluene-4-sulfonic acid 2-(3-oxo-[1,2,4]triazolo[4,3-a]pyridin-2-yl)-ethyl ester 166 mg (0.5 mmol) was dissolved in 50 ml DMSO. To this solution was added 99 mg of 3-(1,2,3,6-Tetrahydro-pyridin-4-yl)-1H-indole, (1 eq, 0.5 mmol) and 5 ml triethyl amine. The reaction media was heated under nitrogen at 85° C. for 18 hours. It was then cooled down to room temperature and poured into about 300 ml water and extracted with ethyl acetate (2×200 ml). The combined organic layers were dried over magnesium sulfate and filtered and concentrated. Flash column chromatography using ethyl acetate and 20% methanol/ethyl acetate yielded 54 mg product (30%). mp: 170.4° C.; M+: 360.1; H-NMR: 8.28 (b, 1H, NH), 7.88 (d, 1H), 7.55(d, 1H), 7.30(d, 1H), 7.14(m, 5H), 6.47(m, 1H), 6.19 (m, 1H), 4.25 (m, CH2), 3.35 (d, CH2), 3.00 (t, CH2) 2.86 (t, CH2), 2.60(m, CH2).

reactant | Toluene-4-sulfonic acid 2-(3-oxo-[1,2,4]triazolo[4,3-a]pyridin-2-yl)-ethyl ester | 0.5 mmol, 166 mg | O=C1N(N=C2N1C=CC=C2)CCOS(=O)(=O)C2=CC=C(C=C2)C | C15H15N3O4S
reactant | 3-(1,2,3,6-Tetrahydro-pyridin-4-yl)-1H-indole | 0.5 mmol, 99 mg, 1 eq | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | triethyl amine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | water | about 300 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 2-{2-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethyl}-2H-[1,2,4]triazolo[4,3-a]pyridin-3-one | 54 mg, 30% | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCN1N=C2N(C=CC=C2)C1=O | C21H21N5O
